US07001899B2
Preparation of {3-[(isoquinoline-1-carbonyl)amino]-6-methyl-2-oxo-2,3,4,7-tetrahydroazepin-1-yl}-acetic acid ethyl ester (11):
The crude (3-amino-6-methyl-2-oxo-2,3,4,7-tetrahydroazepin-1-yl}-acetic acid ethyl ester, 10, obtained in the previous step is dissolved in 6 mL of 1:1 DMF:CH2Cl2 and treated with 1-isoquinolinecarboxylic acid (0.24 g, 1.2 mmol), 1-hydroxybenzotriazole (0.23 g, 1.5 mmol), and 1-(3-dimethyl-aminopropyl)-3-ethyl-carbodiimide hydrochloride (0.32 g, 1.5 mmol). The solution is stirred for 1 hour at room temperature, diluted with EtOAc, washed with saturated NaHCO3, saturated NaCl, and dried (Na2SO4). The solvent is removed in vacuo and the crude isolate is purified by HPLC to afford 70 mg (30% yield) of the desired product. 1H NMR (CDCl3) δ 9.51–9.48 (d, J=8.1 Hz, 1H), 9.22–9.20 (d, J=6.9 Hz, 1H), 8.51–8.49 (d, J=5.4 Hz, 1H), 7.84–7.77 (m, 2H), 7.72–7.63 (m, 2H), 5.57 (bs, 1H), 5.48–5.40 (m, 1H), 4.775–4.715 (d, J=18 Hz, 1H), 4.24–4.19 (q, d, J=15.3, 7.5 Hz, 3H), 3.27–3.21 (d, J=18 Hz, 1H), 2.86–2.81 (d, J=16.5 Hz, 1H), 2.45–2.36 (d, d, J=15, 12.6 Hz, 1H), 1.79 (s, 3H), 1.30–1.25 (t, J=7.5 Hz, 3H); 13C (CDCl3) 172.8, 169.2, 165.6, 148.2, 140.8, 137.5, 131.8, 130.5, 128.7, 127.7, 127.0, 124.5, 123.4, 61.6, 52.3, 50.8, 49.6, 32.6, 25.0, 14.3; MS 382 (M+H)+.

reactant | (3-amino-6-methyl-2-oxo-2,3,4,7-tetrahydroazepin-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C(C(CC=C(C1)C)N)=O)=O | C11H18N2O3
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | 1-isoquinolinecarboxylic acid | 1.2 mmol, 0.24 g | C1(=NC=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | 1-hydroxybenzotriazole | 1.5 mmol, 0.23 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {3-[(isoquinoline-1-carbonyl)amino]-6-methyl-2-oxo-2,3,4,7-tetrahydroazepin-1-yl}-acetic acid ethyl ester | 70 mg, 30% yield | C(C)OC(CN1C(C(CC=C(C1)C)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C21H23N3O4
